US06777418B2
To a solution of 14 g (32 mmol) of 2-bromo-3-(3-t-butyldimethylsiloxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene in 200 mL of dry tetrahydrofuran at −78° C. was added 24.9 mL (64 mmol) of n-BuLi (2.5 M in hexane) via syringe under N2 atmosphere. The reaction mixture was stirred at this condition for 1 hour. Then it was quenched with a solution of 7 mL (64 mmol) of N-formyl piperidine in 10 mL of dry tetrahydrofuran. The resulting solution was stirred for an additional 30 minutes, when it was quenched with 100 mL of NH4Cl solution. The reaction mixture was extracted with 3×100 mL of ethyl acetate. The organic layers were combined, dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash chromatography on silica gel (gradient elution: 30% ethyl acetate/hexanes) to afford 11.1 g (90%) of 2-formyl-3-(3-t-butyldimethylsiloxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene. (M+=386).

reactant | 2-bromo-3-(3-t-butyldimethylsiloxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene | 32 mmol, 14 g | BrC1=CC=2C(CCC(C2C=C1CCCO[Si](C)(C)C(C)(C)C)(C)C)(C)C | C23H39BrOSi
reactant | n-BuLi | 64 mmol, 2.5 M, 24.9 mL | [Li]CCCC
reactant | N-formyl piperidine | 64 mmol, 7 mL | C(=O)N1CCCCC1 | C6H11NO
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-formyl-3-(3-t-butyldimethylsiloxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene | 11.1 g, 90% | C(=O)C1=CC=2C(CCC(C2C=C1CCCO[Si](C)(C)C(C)(C)C)(C)C)(C)C | C24H40O2Si
